US06458772B1
a) Methyl-4-(4-methoxybenzyloxy)benzoate
To a solution of methyl 4-hydoxybenzoate (6.85 g, 45 mmole) in 80 ml DMF was added potassium tert. butoxide (5.6 g, 51 mmole) and the mixture was stirred at room temperature for one hour. 4-Methoxybenzyl chloride (8.3 g, 52 mmole) was added and the mixture was stirred overnight at room temperature. The mixture was evaporated under reduced pressure and 200 ml ethyl acetate was added. The organic phase was washed four times with water, dried with sodium sulfate and evaporated under reduced pressure. Yield: 12.3 g 100%

reactant | methyl 4-hydoxybenzoate | 45 mmole, 6.85 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | potassium tert. butoxide | 51 mmole, 5.6 g | CC(C)([O-])C.[K+]
reactant | 4-Methoxybenzyl chloride | 52 mmole, 8.3 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | Methyl-4-(4-methoxybenzyloxy)benzoate | COC(C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC)=O | C16H16O4
